US07790732B2
d) 5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydro iodide
Methyl iodide (0.73 ml, 11.7 mmol) was added to a suspension of 5,8-dichloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione (0.96 g, 3.9 mmol) in acetone (12 ml), and the mixture was stirred at room temperature overnight. The reaction was diluted with diethyl ether, and the precipitated product (1.31 g, 86%) was isolated by filtration as a white solid.

reactant | Methyl iodide | 11.7 mmol, 0.73 ml | CI | CH3I
reactant | 5,8-dichloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 3.9 mmol, 0.96 g | ClC1=C2C(NC(NC2=C(C=C1)Cl)=S)C | C9H8Cl2N2S
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydro iodide | 1.31 g, 86% | I.ClC1=C2C(NC(=NC2=C(C=C1)Cl)SC)C | InChI=1S/C10H10Cl2N2S.HI/c1-5-8-6(11)3-4-7(12)9(8)14-10(13-5)15-2;/h3-5H,1-2H3,(H,13,14);1H
